### PR TITLE
[Merged by Bors] - feat: file for lemmas about MvPolynomials over NoZeroDivisors

### PR DESCRIPTION
**Pull request by BoltonBailey**
This PR creates a new file for lemmas about `MvPolynomial`s over rings which are `NoZeroDivisors`, to make modified versions of lemmas like `degreeOf_C_mul`.

Original PR: https://github.com/leanprover-community/mathlib4/pull/11106

- [x] depends on: #11095
- [x] depends on: #11094
- [x] depends on: #25926 [We need this lemma to establish fact about degreeOf n (p + q)]
- [x] depends on: #32558

---

Notes to self:

* Can the results in this file be generalized?
* Perhaps to the assumption `IsCancelMulZero R`?
  * Note that when `R` is a ring, `IsCancelMulZero R` is equivalent to
  `NoZeroDivisors R`.
  * When `R` is only a semiring, `NoZeroDivisors R` is implied by `IsCancelMulZero R`
  (although this is not typeclass inferrable, see `IsLeftCancelMulZero.to_noZeroDivisors`),
  * When `R` is only a semiring, `IsCancelMulZero R` is not implied by `NoZeroDivisors R`, see https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/IsCancelMulZero.20and.20NoZeroDivisors.20for.20semirings/with/562333254
  * Thus, we should see if the results in this file can be generalized to
    `IsCancelMulZero R`.
  * Note that `MvPolynomial.totalDegree_mul_of_isDomain` exists, which proves a related result
      under the assumption `IsCancelMulZero R`.
  * This seems weaker than it could be!
  * I will try to open PR to generalize these results to `NoZeroDivisors R` in a new PR.
* Perhaps to more specific assumptions about cancellation on leadingCoeffs?

This PR continues the work from #11106 and #11073

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
...
++ `a : R`
+
++ `i : σ`, with corresponding monomial `X i`, often denoted `X_i` by mathematicians
+
++ `p : MvPolynomial σ R`
+
+## TODOs
+
+* Add a `totalDegree_mul_eq` theorem, which states that the total degree of a product of two
+nonzero multivariate polynomials is the sum of their total degrees.
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: This is `MvPolynomial.totalDegree_mul_of_isDomain`. Perhaps you could move it here?

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+
+universe u v
+
+variable {R : Type u} {S : Type v}
+
+namespace MvPolynomial
+
+variable {σ : Type*} {a a' a₁ a₂ : R} {e : ℕ} {n m : σ} {s : σ →₀ ℕ}
+
+section NoZeroDivisors
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: I don't think this section is necessary

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 3]
```diff
@@ -0,0 +1,92 @@
...
+
+* Add a `totalDegree_mul_eq` theorem, which states that the total degree of a product of two
+nonzero multivariate polynomials is the sum of their total degrees.
+
+-/
+
+@[expose] public section
+
+
+noncomputable section
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: nor this

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 4]
```diff
@@ -0,0 +1,92 @@
...
+
+open Set Function Finsupp AddMonoidAlgebra
+
+universe u v
+
+variable {R : Type u} {S : Type v}
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
variable {R S : Type*}
```

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 5]
```diff
@@ -0,0 +1,92 @@
...
+nonzero multivariate polynomials is the sum of their total degrees.
+
+-/
+
+@[expose] public section
+
+
+noncomputable section
+
+open Set Function Finsupp AddMonoidAlgebra
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: Can you confirm if all of these are necessary?

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 6]
```diff
@@ -0,0 +1,92 @@
...
+
+section NoZeroDivisors
+
+variable [CommSemiring R] [NoZeroDivisors R]
+
+variable {p q : MvPolynomial σ R}
+
+section DegreeOf
+
+lemma degreeOf_mul (hp : p ≠ 0) (hq : q ≠ 0) :
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: Can you point to this at the docstring of `MvPolynomial.degreeOf_mul_le`? Also on the other `TODO`s in that file about this.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 7]
```diff
@@ -0,0 +1,92 @@
...
++ `R : Type*` `[NoZeroDivisors R]` (the coefficients)
+
++ `s : σ →₀ ℕ`, a function from `σ` to `ℕ` which is zero away from a finite set.
+This will give rise to a monomial in `MvPolynomial σ R` which mathematicians might call `X^s`
+
++ `a : R`
+
++ `i : σ`, with corresponding monomial `X i`, often denoted `X_i` by mathematicians
+
++ `p : MvPolynomial σ R`
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: I don't think this is particularly useful?

File: Mathlib/Algebra/MvPolynomial/Degrees.lean [hunk 8]
```diff
@@ -253,7 +257,9 @@ lemma degreeOf_monomial_eq (s : σ →₀ ℕ) (i : σ) {a : R} (ha : a ≠ 0) :
     (monomial s a).degreeOf i = s i := by
   classical rw [degreeOf_def, degrees_monomial_eq _ _ ha, Finsupp.count_toMultiset]
 
--- TODO we can prove equality with `NoZeroDivisors R`
+/--
+Note that `degreeOf_mul_eq` proves equality with `NoZeroDivisors R` and nonzero polynomials.
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/Degrees.lean]:
```suggestion
Note that `degreeOf_prod_eq` proves equality with `NoZeroDivisors R` and nonzero polynomials.
```

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean (hunk 1 above)
Comment (BoltonBailey) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: That theorem uses the typeclass assumption `IsCancelMulZero R`, whereas I intended this file to contain only lemmas using the assumption `NoZeroDivisors R`. AFAICT, mathlib has [only seems to have something proving these are equivalent in the case where `R` has subtraction](https://loogle.lean-lang.org/?q=NoZeroDivisors%2C+IsCancelMulZero), but in MvPolynomial files we only assume R is a semiring. So even given the existence of this `IsCancelMulZero` lemma, I'm unsure how to use it to prove the `NoZeroDivisors` version.

Is there/do you know of a mathematical reason why one of these assumptions implies the other under only `CommSemiring`? If so, perhaps the best thing to do is figure out which assumption is weaker and whether we can move the lemmas to a file dedicated to that assumption. If not, I think I'd prefer to leave everything where it is.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 9]
```diff
@@ -0,0 +1,88 @@
...
+Many results about polynomials hold when the coefficient ring has no zero divisors.
+
+This file does not define any new operations, but proves some of these stronger results.
+
+## TODOs
+
+* Add a `totalDegree_mul_eq` theorem, which states that the total degree of a product of two
+nonzero multivariate polynomials is the sum of their total degrees. (See also
+`MvPolynomial.totalDegree_mul_of_isDomain`, which proves this
+under the assumption that the coefficient ring has cancellative multiplication.)
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: I am slightly confused. This is definitely not true if the ring has zero divisors?

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 10]
```diff
@@ -0,0 +1,88 @@
...
+      rw [degreeOf_mul_eq ha (by rw [Finset.prod_ne_zero_iff]; exact hs), ih]
+  · push_neg at nontrivial
+    have (x : MvPolynomial σ R) : x = 0 := Subsingleton.eq_zero x
+    simp only [degreeOf_zero, Finset.sum_const_zero, this]
+
+theorem degreeOf_C_mul (j : σ) (c : R) (hc : c ≠ 0) :
+    MvPolynomial.degreeOf j (MvPolynomial.C c * p) = MvPolynomial.degreeOf j p := by
+  by_cases hp : p = 0
+  · simp [hp]
+  rw [degreeOf_mul_eq (C_eq_zero.not.mpr hc) hp, degreeOf_C, zero_add]
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: This shouldn't need `NoZeroDivisors` if you change `hc` to `c ∈ R⁰`.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean (hunk 1 above)
Comment (BoltonBailey) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: [Hmm, seems that `Is{Left,Right}CancelMulZero` implies `NoZeroDivisors` with only `NonUnitalNonAssocSemiring`](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMBQPgB2AzjEgQMYCmcA2gHIQECqBwp6DBAgkUROQGVKIYFEIBzOACUAurQCSRADKUAZjADCZKugQBXdAC1KUCNLkAuOA2OmAIsABuwPlCLS4FgLxwsATxw4OCgAd1oCCFsIB2dXIgB9YFVVGUC4QhhTdyRfOFQkXCD/ePJGTKQ0sD0iVHiCSkkUODQXNIgsUkI4QAvyfIAaPKxAS/JPHxaiNKQwMHQ/Qcnp2bhFFXUtCkpdAyiAOhADePQ1GBLtTfiIVTrKeIAvEzN8tKJQMDhGJZp99DuH1KDKAAPJDkeD5LBAA)

```
import Mathlib

instance [NonUnitalNonAssocSemiring R] [IsLeftCancelMulZero R] : NoZeroDivisors R := by
  rw [noZeroDivisors_iff]
  intros a b hab
  by_contra
  push_neg at this
  obtain ⟨ha, hb⟩ := this
  apply hb
  apply IsLeftCancelMulZero.mul_left_cancel_of_ne_zero ha
  simp only [mul_zero]
  exact hab
```

Comment (BoltonBailey) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: This would seem to be a strengthening of the instance Loogle provided. Is there a reason not to have this? ~~I'll try and add a dependent PR to ask~~ I just found the lemmas `IsLeftCancelMulZero.to_noZeroDivisors` and `IsRightCancelMulZero.to_noZeroDivisors`. The fact that these are lemmas and not instances suggests to me that there is some typeclass-diamond related danger here.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean (hunk 9 above)
Comment (BoltonBailey) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: I'm not sure what you mean by "this", care to elaborate?

Comment (erdOne) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: I was referring to "total degree of a product of two nonzero multivariate polynomials is the sum of their total degrees". And I assumed the base ring is indeed a ring. If you care about semirings then maybe you should reflect this in the docstring.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean (hunk 10 above)
Comment (BoltonBailey) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: Perhaps the file this PR adds should be changed to not be named `NoZeroDivisors` but instead something like `Cancellative`?

Comment (erdOne) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: I am trying to say that this lemma should go in `Degrees.lean` with a more general hypothesis. 
I don't have a preference between `NoZeroDivisors` and `(Mul)Cancellative` because they mean the same thing to me as all my rings are actually rings.

Comment (BoltonBailey) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: Ok, after looking into it further, I think that the obstacle to doing this is that the univariate polynomial lemma all this is based on `lemma natDegree_mul [Semiring R] [NoZeroDivisors R] (hp : p ≠ 0) (hq : q ≠ 0) : (p*q).natDegree = p.natDegree + q.natDegree` itself needs to be generalized, perhaps to something along the lines of `lemma natDegree_mul_of_nonZeroDivisors_leadingCoeff [Semiring R] (hp : p.leadingCoeff \in R\^0) (hq : q ≠ 0) : (p*q).natDegree = p.natDegree + q.natDegree`, so this is what I will try to do next.

Comment (erdOne) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: We have `Polynomial.natDegree_mul'`

Comment (BoltonBailey) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: Ok, I have a successful proof of the version of `degreeOf_C_mul` with the `c ∈ R⁰` assumption you wanted. Unfortunately I am having trouble moving this or any other of the lemmas in this file to Degrees.lean, because `degreeOf_mul_eq` depends on `degreeOf_eq_natDegree` which is in `Mathlib.Algebra.MvPolynomial.Equiv`, which imports `Degrees.lean`

~~I could take the step of trying to reorganize the theorems about degrees that are currently in `Mathlib.Algebra.MvPolynomial.Equiv` into `Mathlib.Algebra.MvPolynomial.Degrees` - would that make sense?~~ I guess not as it massively increases imports (See https://github.com/leanprover-community/mathlib4/pull/33265). Instead I have just grouped the totalOrder lemma into this file, let me know if you would prefer this reorganization anyway.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean (hunk 9 above)
Comment (BoltonBailey) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: Ok some helpful people in Zulip have convinced me that `IsCancelMulZero R` is not implied by `NoZeroDivisors R` when R is a semiring. So I guess the question is: Can the assumption of `totalDegree_mul_eq` be weakened to `NoZeroDivisors R`? I see no clear reason why it couldn't be, but it might require more effort.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean (hunk 1 above)
Comment (BoltonBailey) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: The dependent PRs have merged and I have now completed this move.

**Comment by riccardobrasca** [comment]
@BoltonBailey I moved the "note to self" after the horizontal line, so it will not be included in the commit message. Feel free to move something before the line if you think it is important.

File: Mathlib/Algebra/MvPolynomial/Degrees.lean [hunk 11]
```diff
@@ -229,6 +229,10 @@ lemma degreeOf_le_iff {n : σ} {f : MvPolynomial σ R} {d : ℕ} :
 theorem degreeOf_zero (n : σ) : degreeOf n (0 : MvPolynomial σ R) = 0 := by
   classical simp only [degreeOf_def, degrees_zero, Multiset.count_zero]
 
+@[simp]
+theorem degreeOf_one (n : σ) : degreeOf n (1 : MvPolynomial σ R) = 0 := by
+  classical simp only [degreeOf_def, degrees_one, Multiset.count_zero]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/Degrees.lean]: Can you unsqueeze the simp?

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 12]
```diff
@@ -0,0 +1,210 @@
+/-
+Copyright (c) 2025 Bolton Bailey. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Bolton Bailey
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
Authors: Antoine Chambert-Loir, Bolton Bailey
```
Since Antoine wrote the declaration in the other file.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 13]
```diff
@@ -0,0 +1,210 @@
...
+-/
+module
+
+public import Mathlib.Algebra.MvPolynomial.Variables
+public import Mathlib.Algebra.MvPolynomial.Equiv
+public import Mathlib.RingTheory.MvPolynomial.MonomialOrder.DegLex
+
+/-!
+# Multivariate polynomials over `NoZeroDivisors`
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
# Multivariate polynomials over integral domains
```
I know the title is not 100% accurate, but for a mathematician is surely fine.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 14]
```diff
@@ -0,0 +1,210 @@
...
+
+section CommSemiring
+
+variable [CommSemiring R]
+
+variable {p q : MvPolynomial σ R}
+
+section DegreeOf
+
+lemma degreeOf_mul_eq [NoZeroDivisors R] (hp : p ≠ 0) (hq : q ≠ 0) :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
lemma degreeOf_mul_eq (hp : p ≠ 0) (hq : q ≠ 0) :
```
You can add it to a `variable` line.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 15]
```diff
@@ -0,0 +1,210 @@
...
+  classical
+  apply Multiset.ext'
+  intro s
+  simp_rw [Multiset.count_add, ← degreeOf_def, degreeOf_mul_eq hp hq]
+
+end Degrees
+
+open nonZeroDivisors
+
+theorem degreeOf_C_mul (j : σ) (c : R) (hc : c ∈ R⁰) :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: Is it possible to move this to another file?

**Comment by riccardobrasca** [comment]
!bench

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean (hunk 15 above)
Comment (BoltonBailey) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: Currently, it can be moved to Mathlib.Algebra.MvPolynomial.Equiv which is directly imported here (but no deeper, because it depends on `degreeOf_eq_natDegree` from that file). Of the two, I think it's more appropriate here, because while it doesn't require `NoZeroDivisors`, the `c ∈ R⁰` condition makes it relevant to this file.

I will rearrange things so that it falls outside the `variable [NoZeroDivisors R]` block , let me know if you really would like it somewhere else.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 16]
```diff
@@ -0,0 +1,220 @@
...
+    | empty => simp
+    | insert a s a_not_mem ih =>
+      simp only [Finset.mem_insert, ne_eq, forall_eq_or_imp] at h
+      obtain ⟨ha, hs⟩ := h
+      specialize ih hs
+      simp only [a_not_mem, not_false_eq_true, Finset.prod_insert, Finset.sum_insert]
+      rw [degreeOf_mul_eq ha (by rw [Finset.prod_ne_zero_iff]; exact hs), ih]
+  · push_neg at nontrivial
+    have (x : MvPolynomial σ R) : x = 0 := Subsingleton.eq_zero x
+    simp only [degreeOf_zero, Finset.sum_const_zero, this]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
lemma degreeOf_prod_eq {ι : Type*} (s : Finset ι) (f : ι → MvPolynomial σ R)
    (h : ∀ i ∈ s, f i ≠ 0) :
    degreeOf n (∏ i ∈ s, f i) = ∑ i ∈ s, degreeOf n (f i) := by
  rcases subsingleton_or_nontrivial (MvPolynomial σ R) with nontrivial | nontrivial
  · simp [Subsingleton.eq_zero]
  · classical
    induction s using Finset.induction_on with
    | empty => simp
    | insert a s a_not_mem ih =>
      simp only [mem_insert, ne_eq, forall_eq_or_imp] at h
      obtain ⟨ha, hs⟩ := h
      simp [a_not_mem, not_false_eq_true, prod_insert, sum_insert, degreeOf_mul_eq ha
        (by rw [prod_ne_zero_iff]; exact hs), ih hs]
```
You need `open Finset` to make this work.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 17]
```diff
@@ -0,0 +1,220 @@
...
+
+theorem degreeOf_pow_eq (i : σ) (p : MvPolynomial σ R) (n : ℕ) (hp : p ≠ 0) :
+    degreeOf i (p ^ n) = n * degreeOf i p := by
+  rw [Finset.pow_eq_prod_const, degreeOf_prod_eq (Finset.range n) (fun _ ↦ p) (fun _ _ ↦ hp)]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
  rw [pow_eq_prod_const, degreeOf_prod_eq (range n) (fun _ ↦ p) (fun _ _ ↦ hp)]
```
If you follow my suggestion above to `open Finset`.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 18]
```diff
@@ -0,0 +1,220 @@
...
+
+end Degrees
+
+theorem totalDegree_mul_of_isDomain {f g : MvPolynomial σ R}
+    (hf : f ≠ 0) (hg : g ≠ 0) :
+    totalDegree (f * g) = totalDegree f + totalDegree g := by
+  cases exists_wellOrder σ
+  rw [← degree_degLexDegree (σ := σᵒᵈ), ← degree_degLexDegree (σ := σᵒᵈ),
+    ← degree_degLexDegree (σ := σᵒᵈ), MonomialOrder.degree_mul hf hg]
+  simp
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
  simp [← degree_degLexDegree (σ := σᵒᵈ), MonomialOrder.degree_mul hf hg]
```

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 19]
```diff
@@ -0,0 +1,220 @@
...
+    f ∣ C a ↔ ∃ b, b ∣ a ∧ f = C b := by
+  constructor
+  · intro hf
+    use coeff 0 f
+    suffices f.totalDegree = 0 by
+      rw [totalDegree_eq_zero_iff_eq_C] at this
+      refine ⟨?_, this⟩
+      rw [this, C_dvd_iff_dvd_coeff] at hf
+      convert hf 0
+      simp
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
      simpa using hf 0
```

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 20]
```diff
@@ -0,0 +1,220 @@
...
+    apply Nat.eq_zero_of_le_zero
+    convert totalDegree_le_of_dvd_of_isDomain hf (by simp [ha])
+    simp
+  · rintro ⟨b, hab, rfl⟩
+    exact _root_.map_dvd C hab
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
    exact map_dvd C hab
```

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 21]
```diff
@@ -0,0 +1,216 @@
...
+
+end DegreeOf
+
+section Degrees
+
+lemma degrees_mul_eq (hp : p ≠ 0) (hq : q ≠ 0) :
+    degrees (p * q) = degrees p + degrees q := by
+  classical
+  apply Multiset.ext'
+  intro s
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
  ext s
```

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 22]
```diff
@@ -0,0 +1,216 @@
...
+    totalDegree (f * g) = totalDegree f + totalDegree g := by
+  cases exists_wellOrder σ
+  simp [← degree_degLexDegree (σ := σᵒᵈ), MonomialOrder.degree_mul hf hg]
+
+theorem totalDegree_le_of_dvd_of_isDomain {f g : MvPolynomial σ R}
+    (h : f ∣ g) (hg : g ≠ 0) :
+    f.totalDegree ≤ g.totalDegree := by
+  obtain ⟨r, rfl⟩ := h
+  rw [totalDegree_mul_of_isDomain]
+  · exact Nat.le_add_right f.totalDegree r.totalDegree
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
  · lia
```

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 23]
```diff
@@ -0,0 +1,216 @@
...
+  · exact fun h ↦ hg (by simp [h])
+  · exact fun h ↦ hg (by simp [h])
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
    rw [totalDegree_mul_of_isDomain (by aesop) (by aesop)]
  lia
```
I am surprised that `grind` doesn't work instead of `aesop`. If you want feel free to investigate.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 24]
```diff
@@ -0,0 +1,216 @@
...
+  · intro hf
+    use coeff 0 f
+    suffices f.totalDegree = 0 by
+      rw [totalDegree_eq_zero_iff_eq_C] at this
+      refine ⟨?_, this⟩
+      rw [this, C_dvd_iff_dvd_coeff] at hf
+      simpa using hf 0
+    apply Nat.eq_zero_of_le_zero
+    convert totalDegree_le_of_dvd_of_isDomain hf (by simp [ha])
+    simp
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
    simpa using totalDegree_le_of_dvd_of_isDomain hf (by simp [ha])
```

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 25]
```diff
@@ -0,0 +1,216 @@
...
+    f.totalDegree ≤ g.totalDegree := by
+  obtain ⟨r, rfl⟩ := h
+  rw [totalDegree_mul_of_isDomain]
+  · exact Nat.le_add_right f.totalDegree r.totalDegree
+  · exact fun h ↦ hg (by simp [h])
+  · exact fun h ↦ hg (by simp [h])
+
+theorem dvd_C_iff_exists {f : MvPolynomial σ R}
+    {a : R} (ha : a ≠ 0) :
+    f ∣ C a ↔ ∃ b, b ∣ a ∧ f = C b := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
theorem dvd_C_iff_exists {f : MvPolynomial σ R} {a : R} (ha : a ≠ 0) :
    f ∣ C a ↔ ∃ b, b ∣ a ∧ f = C b := by
```

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 26]
```diff
@@ -0,0 +1,216 @@
...
+
+open nonZeroDivisors
+
+theorem degreeOf_C_mul (j : σ) (c : R) (hc : c ∈ R⁰) :
+    degreeOf j (C c * p) = degreeOf j p := by
+  by_cases hp : p = 0
+  · simp [hp]
+  classical
+  simp_rw [degreeOf_eq_natDegree, map_mul]
+  simp only [← renameEquiv_apply]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
  simp_rw [degreeOf_eq_natDegree, map_mul, ← renameEquiv_apply]
```

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 27]
```diff
@@ -0,0 +1,216 @@
...
+    exact map_dvd C hab
+
+end NoZeroDivisors
+
+section nonZeroDivisors
+
+open nonZeroDivisors
+
+theorem degreeOf_C_mul (j : σ) (c : R) (hc : c ∈ R⁰) :
+    degreeOf j (C c * p) = degreeOf j p := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
theorem degreeOf_C_mul (j : σ) (c : R) (hc : c ∈ R⁰) : degreeOf j (C c * p) = degreeOf j p := by
```

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 28]
```diff
@@ -0,0 +1,216 @@
...
+        hp
+          (rename_injective (⇑(Equiv.optionSubtypeNe j).symm)
+            (Equiv.injective (Equiv.optionSubtypeNe j).symm) h)
+    simp_rw [ne_eq, renameEquiv_apply, algHom_C, algebraMap_eq, optionEquivLeft_C,
+      Polynomial.leadingCoeff_C]
+    contrapose! hp'
+    ext m
+    have h' := congr_arg (coeff m) hp'
+    simp only [coeff_C_mul] at h'
+    exact hc.1 _ h'
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
    apply hc.1
    simpa using congr_arg (coeff m) hp'
```

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean [hunk 29]
```diff
@@ -0,0 +1,216 @@
...
+  · simp
+  · have hp' :
+        ((optionEquivLeft R { b // ¬b = j })
+          ((rename (Equiv.optionSubtypeNe j).symm) p)).leadingCoeff ≠ 0 := by
+      simp only [ne_eq, Polynomial.leadingCoeff_ne_zero, EmbeddingLike.map_eq_zero_iff]
+      intro h
+      exact
+        hp
+          (rename_injective (⇑(Equiv.optionSubtypeNe j).symm)
+            (Equiv.injective (Equiv.optionSubtypeNe j).symm) h)
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]:
```suggestion
  · have hp' : (optionEquivLeft R _ ((rename (optionSubtypeNe j).symm) p)).leadingCoeff ≠ 0 := by
      intro h
      exact hp (rename_injective _ (Equiv.injective _) (by simpa using h))
```
you need `open Equiv in` before the declaration.

File: Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean (hunk 23 above)
Comment (BoltonBailey) [reply Mathlib/Algebra/MvPolynomial/NoZeroDivisors.lean]: I'll post on Zulip, I don't know much about grind myself.
